US04061761
d. 3-Ethyl-2-ethylimino-4-(4-methyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5 g of 2-chloro-4'-methyl-3'-sulfamoylacetophenone and 2.7 g of 1,3-diethylthiourea were reacted as prescribed in Example 12. After addition of 200 ml of diisopropyl ether the solvent was decanted and the oily end product was crystallized under ethyl acetate heated to 40° to 50° C. Colorless solid body, melting point: 160° C (decomposition).

reactant | 2-chloro-4'-methyl-3'-sulfamoylacetophenone | 5 g | ClCC(=O)C1=CC(=C(C=C1)C)S(N)(=O)=O | C9H10ClNO3S
reactant | 1,3-diethylthiourea | 2.7 g | C(C)NC(=S)NCC | C5H12N2S
solvent | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | 3-Ethyl-2-ethylimino-4-(4-methyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)C)S(N)(=O)=O)=NCC | InChI=1S/C14H21N3O3S2.ClH/c1-4-16-13-17(5-2)14(18,9-21-13)11-7-6-10(3)12(8-11)22(15,19)20;/h6-8,18H,4-5,9H2,1-3H3,(H2,15,19,20);1H
